US08603975B2
To a solution of 1-tert-butyl 4-ethyl piperidine-1,4-dicarboxylate (2.57 g) in THF (26 ml) was added 0.5 M solution of potassium bis(trimethylsilyl)amide in toluene (24.0 ml) under at −70° C. After 15 minutes, chloromethyl methyl ether (1.2 ml) was added and it was stirred at 0° C. for 2 hours. Water was added and extracted with EtOAc. The organic phase was washed with water and brine, dried over MgSO4, evaporated under reduced pressure. The residue was purified by silica gel column to give 1-tert-butyl 4-ethyl 4-(methoxymethyl)piperidine-1,4-dicarboxylate (2.05 g) as oil.

reactant | 1-tert-butyl 4-ethyl piperidine-1,4-dicarboxylate | 2.57 g | N1(CCC(CC1)C(=O)OCC)C(=O)OC(C)(C)C | C13H23NO4
reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | chloromethyl methyl ether | 1.2 ml | COCCl | C2H5ClO
reactant | Water | O | H2O
solvent | THF | 26 ml | C1CCOC1 | C4H8O
solvent | toluene | 24.0 ml | C1(=CC=CC=C1)C | C7H8
product | 1-tert-butyl 4-ethyl 4-(methoxymethyl)piperidine-1,4-dicarboxylate | 2.05 g | COCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C15H27NO5
